US07183306B2
To a suspension of (2-{4-[1-[4-(methylthio)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenoxy}ethyl)amine hydrochloride (7.5 g) in H2O (150 ml) and EtOH (75 ml) was added NaOCN (2.27 g) at room temperature. pH was adjusted to 6.3 with 1NHCl . The mixture was stirred for 5 hours under the condition of pH 6.0–7.0. The reaction mixture was extracted with EtOAc and washed with dil. NaCl (twice), dried over MgSO4, filtered and evaporated. The residue was column chromatographed on silica gel (CH2Cl2/MeOH) and evaporated. The residue was crytalized from IPE/EtOH. Recrystalized from EtOH/H2O (50 ml–50 ml Final) and dried to give 4.10 g (54%) of N-(2-{4-[1-[4-(methylthio)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenoxy}ethyl)urea.

reactant | (2-{4-[1-[4-(methylthio)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenoxy}ethyl)amine hydrochloride | 7.5 g | Cl.CSC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(OCCN)C=C1)C(F)(F)F
reactant | NaOCN | 2.27 g | O([Na])C#N
solvent | H2O | 150 ml | O | H2O
solvent | EtOH | 75 ml | CCO | C2H6O
product | N-(2-{4-[1-[4-(methylthio)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenoxy}ethyl)urea | 4.10 g, 54% | CSC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(OCCNC(=O)N)C=C1)C(F)(F)F | C20H19F3N4O2S
